US05532240
The mixture of 2.4 g of 4-(bis(4-chlorophenyl)methyl)piperazine, 2.0 g of 7-(4-chlorobutyryl)-2,3-dihydrothieno[3,2-f][1,4]thiazepin-5(4H)-one, 1.9 g of potassium carbonate and 1.2 g of potassium iodide in 15 ml of N,N-dimethylformamide and 15 ml of toluene was stirred at 60° C. for 5 hours. After the mixture was cooled in a water bath, water was added thereto. The precipitated crystals were filtered off and the filtrate was extracted with toluene. The organic layer was washed with saline solution, dried over magnesium sulfate and concentrated. The residue was purified by column chromatography on a silica gel and the resulting crystals were recrystallized from isopropyl alcohol-isopropyl ether to give 0.18 g of 7-(4-(4-(bis(4-chlorophenyl)methyl)piperazin-1-yl)butyryl)-2,3-dihydrothieno[3,2-f][1,4]thiazepin-5(4H)-one as white crystals, m.p. 185°-187° C. (decomposition).

reactant | 4-(bis(4-chlorophenyl)methyl)piperazine | 2.4 g | ClC1=CC=C(C=C1)C(N1CCNCC1)C1=CC=C(C=C1)Cl | C17H18Cl2N2
reactant | 7-(4-chlorobutyryl)-2,3-dihydrothieno[3,2-f][1,4]thiazepin-5(4H)-one | 2.0 g | ClCCCC(=O)C1=CC=2C(NCCSC2S1)=O | C11H12ClNO2S2
reactant | potassium carbonate | 1.9 g | C([O-])([O-])=O.[K+].[K+]
reactant | potassium iodide | 1.2 g | [I-].[K+]
solvent | N,N-dimethylformamide | 15 ml | CN(C=O)C | C3H7NO
solvent | toluene | 15 ml | C1(=CC=CC=C1)C | C7H8
solvent | water | O | H2O
product | 7-(4-(4-(bis(4-chlorophenyl)methyl)piperazin-1-yl)butyryl)-2,3-dihydrothieno[3,2-f][1,4]thiazepin-5(4H)-one | 0.18 g | ClC1=CC=C(C=C1)C(N1CCN(CC1)CCCC(=O)C1=CC=2C(NCCSC2S1)=O)C1=CC=C(C=C1)Cl | C28H29Cl2N3O2S2
